US05131911
c/ Preparation of 4-hydroxy-5-methoxy-2-methylindole
This compound is obtained according to the operating method described in Example 2c, in which the 4-benzyloxy-5-ethoxy-2-methylindole is replaced by 4-benzyloxy-5-methoxy-2-methylindole. Following the operating method of Example 2 a pale yellow powder is obtained (yield=89%, m.p.=118°-119° C.).

reactant | 4-benzyloxy-5-ethoxy-2-methylindole | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1OCC)C | C18H19NO2
reactant | 4-benzyloxy-5-methoxy-2-methylindole | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1OC)C | C17H17NO2
product | 4-hydroxy-5-methoxy-2-methylindole | yield=89% | OC1=C2C=C(NC2=CC=C1OC)C | C10H11NO2
